US08535655B2
b) 3-(2-propylpentanoyloxy)propanoic acid
3-hydroxypropyl 2-propylpentanoate (2.08 g, 10.3 mmol) was dissolved in 120 ml of acetone. 3.1 ml of a solution of Jones Reagent (prepared by dissolving 26.72 g of chromium trioxide in 23 ml of concentrated sulfuric acid, and then diluting the mixture to 100 ml with water) was added. Propan-2-ol (5 ml) was added to the reaction mixture which was filtered through a pad of celite. The filtrate was washed with 0.01 M HCl solution (3×50 ml), dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude product (2.05 g, 9.5 mmol, 92%) was used in the next step without any further purification.

reactant | 3-hydroxypropyl 2-propylpentanoate | 10.3 mmol, 2.08 g | C(CC)C(C(=O)OCCCO)CCC | C11H22O3
reactant | Jones Reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | Propan-2-ol | 5 ml | CC(C)O | C3H8O
solvent | acetone | 120 ml | CC(=O)C | C3H6O
solvent | sulfuric acid | 23 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
catalyst | chromium trioxide | 26.72 g | [O-2].[O-2].[O-2].[Cr+6]
product | 3-(2-propylpentanoyloxy)propanoic acid | C(CC)C(C(=O)OCCC(=O)O)CCC | C11H20O4
